US07425631B2
Step D. Preparation of 3-(R)-(4-fluoro-phenyl)-3-(3-trifluoromethyl-benzenesulfonylamino)-N-(6-vinyl-1,2,3,4-tetrahydro-naphthalen-2-(R)-yl)-propionamide.
A solution of 3-(R)-(4-fluoro-phenyl)-N-(6-formyl-1,2,3,4-tetrahydro-naphthalen-2-(R)-yl)-3-(3-trifluoromethyl-benzenesulfonylamino)-propionamide (391 mg, 1 mmol), crude (6-vinyl-1,2,3,4-tetrahydro-naphthalen-2-(R)-yl)-amine (190 mg, 1.1 mmol), HOBt (135 mg, 1 mmol) and EDC (191 mg, 1 mmol) in 2 mL of DMF was stirred overnight at RT. After quenching with Sat. NaHCO3 solution, the reaction mixture was extracted with EtOAc. The combined organic phase was washed brine, dried over Na2SO4, and evaporated in vacuo. Flash chromatography (SiO2, hexane/EtOAc=1:2) gave the desired compound as a white solid.

reactant | 3-(R)-(4-fluoro-phenyl)-N-(6-formyl-1,2,3,4-tetrahydro-naphthalen-2-(R)-yl)-3-(3-trifluoromethyl-benzenesulfonylamino)-propionamide | 1 mmol, 391 mg | FC1=CC=C(C=C1)[C@@H](CC(=O)N[C@H]1CC2=CC=C(C=C2CC1)C=O)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C27H24F4N2O4S
reactant | (6-vinyl-1,2,3,4-tetrahydro-naphthalen-2-(R)-yl)-amine | 1.1 mmol, 190 mg | C(=C)C=1C=C2CC[C@H](CC2=CC1)N | C12H15N
reactant | HOBt | 1 mmol, 135 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1 mmol, 191 mg
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-(R)-(4-fluoro-phenyl)-3-(3-trifluoromethyl-benzenesulfonylamino)-N-(6-vinyl-1,2,3,4-tetrahydro-naphthalen-2-(R)-yl)-propionamide | FC1=CC=C(C=C1)[C@@H](CC(=O)N[C@H]1CC2=CC=C(C=C2CC1)C=C)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C28H26F4N2O3S
